US07199147B2
To a solution of 1H-indazol-4-ol (200 mg, 1.49 mmol) in tetrahydrofuran (10 ml) were added tert-butyl 4-hydroxypiperidine-1-carboxylate (300 mg, 1.49 mmol), triphenylphosphine (430 mg, 1.64 mmol) and a 40%-dibenzyl azodicarboxylate-dichloromethane solution (0.855 ml, 1.79 mmol) at 0° C. After 1 hour, the mixture thus obtained was warmed up to room temperature. After stirring overnight, the reaction solution was concentrated under reduced pressure, and the resulting residue was dissolved in chloroform (30 ml) and washed with a 1M-aqueous sodium hydroxide solution (20 ml). Extraction with chloroform (30 ml) was carried out again and the organic layer was dried over anhydrous magnesium sulfate. The organic layer dried was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate). The mixture thus obtained was dissolved in methanol (2 ml) and 4N-hydrochloric acid-dioxane (2 ml) was added thereto at room temperature. After 2 hours, the reaction solution was concentrated under reduced pressure, and the resulting residue was dissolved in methanol (5 ml) and the pH was adjusted to 10 by dropwise addition of a 2M aqueous sodium hydroxide solution. The resulting mixed solution was concentrated under reduced pressure, dried and then purified by a silica gel column chromatography (eluent: chloroform/methanol=10/1→chloroform/methanol/(1%-NH3 aq)=10/1) to obtain 4-(piperidin-4-yloxy)-1H-indazole (103 mg, 32%).

reactant | 1H-indazol-4-ol | 1.49 mmol, 200 mg | N1N=CC=2C(=CC=CC12)O | C7H6N2O
reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 1.49 mmol, 300 mg | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triphenylphosphine | 1.64 mmol, 430 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dibenzyl azodicarboxylate dichloromethane | 1.79 mmol, 0.855 ml | N(=NC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1.ClCCl
reactant | hydrochloric acid dioxane | 2 ml | Cl.O1CCOCC1
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
product | 4-(piperidin-4-yloxy)-1H-indazole | 103 mg, 32% | N1CCC(CC1)OC1=C2C=NNC2=CC=C1 | C12H15N3O
